Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Moxifloxacin / clindamycin / Bactrim
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is an ___ right-handed woman with a history
of a fib on coumadin, HTN, diastolic CHF, severe TR, and mild
cognitive impairment with associated aphasia who presents as a
transfer from ___ after a focal motor seizure this
morning. Her daughter reports that she awoke feeling fine this
morning and seemed to be her usual self. They were talking 
around
9am when suddenly her left arm started to shake. She imitates it
as her shoulder and upper arm shaking up and down. There was no
shaking of any other part of her body. She remained awake and
alert throughout the episode and answered questions
appropriately. Her daughter called EMS, and by the time the
ambulance arrived the shaking had stopped on its own. She
estimates it lasted about 3 minutes in total. She was taken to
___ ED where she initially seemed back to normal, but
then about ___ hours later she had a second identical episode of
left arm shaking. This lasted a bit longer than the first
(daughter is unsure how long), but finally they had to give her 
a
dose of ativan after which it resolved. A CT head was performed
which showed multiple hemorrhagic lesions. She was then
transferred to ___ for further evaluation. She received 1g of
keppra prior to transfer and has had no further seizure activity
since. She was also given FFP for an INR of 1.4.

Currently she is awake and alert and completely back to her
baseline per her family. She has some mild cognitive impairment
with language difficulty - previously seen by Dr. ___ in ___ 
and
felt to have a logopenic-type aphasia likely associated with 
mild
Alzheimer's-type dementia. Her family does note some fatigue
recently, and yesterday she said she was feeling a bit achy and
not quite well. They deny any fevers/chills. She was seen by her
PCP yesterday who ordered some basic lab work which all appeared
normal. She had also had a couple of nose bleeds, which are not
unusual for her, and her INR was 1.6. Her daughter also mentions
that she reported some tingling in her left buttocks two days 
ago
which subsequently resolved. This morning when she awoke she was
feeling much better and seemed back to her usual self until the
arm shaking began.

She and her family deny any recent illnesses, fever/chills,
weight loss, decreased appetite, nausea/vomiting. She did report
on one occasion yesterday that her head hurt when she coughed 
but
she otherwise has not had any recent headaches. ROS is otherwise
negative throughout.

She was seen by neurosurgery upon arrival to the ED who did not
recommend any surgical intervention for her hemorrhages and
recommended a neurology consult for further evaluation.

 
Past Medical History:
1.  Longstanding paroxysmal atrial fibrillation on 
anticoagulation
2.  Atrial flutter, status post ablation.
3.  Sick sinus syndrome, status post dual-chamber pacemaker in
___. Discontinued dofetilide but remains in paf without
progression to af. 
4.  Hypertension.
5.  Hyperthyroidism s/p RAI in 1990s.
6. severe TR
7. dCHF
8. CKD
9. prediabetes
10. mild cognitive impairment
11. bladder prolapse

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION EXAM
Vitals: 97.6 60 134/62 20 98%
General: Awake, pleasant and cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented to self and month, does not know
date (baseline per family). Knows she is in the hospital and 
asks
repeatedly if she can go home. Language is fluent but with
frequent paraphasic errors and difficulty with naming, reading,
and repetition. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Left arm sways erratically
on pronator drift testing. 
No adventitious movements, such as tremor, noted.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___ 
L  4+   5-  4+  ___-   5   5    5  5     5    5
R  5    ___   5  5    5   5    5  5     5    5

-Sensory: Intact to light touch, pinprick, and cold. Vibration
slightly decreased at b/l great toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0
Plantar response was flexor bilaterally.

-Coordination: +Dysmetria on left FNF and slightly slower RAM

-Gait: Deferred

Discharge Exam: 
Disorientation to date. Mild anomia with paraphasic errors. Mild 
apraxia. Left arm 5- weakness at biceps and finger extensors, 
otherwise full strength, no pronator drift. Able to walk 
independently, slighly unsteady. 
 
Pertinent Results:
CTA:
IMPRESSION:  
Multiple hemorrhagic lesions distributed in the cortical and 
subcortical areas are again demonstrated largely unchanged from 
the prior examination done earlier today at 11:04. 
Atherosclerotic disease at the right and left carotid 
bifurcations. However, no evidence of stenosis, occlusion or 
aneurysm in the arteries of the head and neck. 

CT Abd/pelvis:
IMPRESSION: 
1. Indeterminate cystic lesions within the left upper renal pole 
and right  renal interpolar region, both of which demonstrate 
equivocal enhancement. Further evaluation with ultrasound is 
recommended, as MR is likely  contraindicated given the presence 
of a pacemaker. 
2. Ill-defined hypoattenuating splenic lesions measuring up to 
10 mm, possibly  hemangiomas, although metastases cannot be 
excluded. These lesions can be assessed on the same ultrasound 
as recommended for the renal lesions. 
3. Severe calcified atherosclerotic disease. Marked 
calcifications at the 
origin of the celiac axis cause at least moderate vessel 
narrowing. 

CT chest: 
IMPRESSION: 
1.  No evidence of lymphadenopathy or suspicious pulmonary 
nodules.  Relative stability of multiple previously visualized 
nodules.   
2.  Two nonspecific lucent foci are again noted with one in the 
C7 and T2 
vertebral bodies and nonspecific.  Further characterization with 
MRI may be obtained, if necessary.     
3.  The main pulmonary artery is enlarged suggestive of 
pulmonary arterial hypertension.  
  
Renal ultrasound:
IMPRESSION: 
Bilateral equivocally enhancing hypodense lesions seen on CT 
correspond to a 2.6 cm minimally complex left renal cyst and a 
1.1 cm simple right renal cyst. No concerning lesion is seen in 
either kidney.  

TTE
The left atrium is elongated. The right atrium is markedly 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). There is no 
ventricular septal defect. The right ventricular cavity is 
mildly dilated with borderline normal free wall function. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. Severe [4+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. [In the setting of at least moderate to 
severe tricuspid regurgitation, the estimated pulmonary artery 
systolic pressure may be underestimated due to a very high right 
atrial pressure.] There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, no 
clear change (RV systolic function may be slightly better).  

___ 04:25PM   TSH-1.2
___ 04:25PM   WBC-7.9 RBC-3.74* HGB-11.1* HCT-33.9* MCV-91 
MCH-29.6 MCHC-32.6 RDW-15.3
___ 02:45PM   NEUTS-59.3 ___ MONOS-5.6 EOS-0.8 
BASOS-0.7
___ 02:45PM   WBC-5.9 RBC-3.77* HGB-10.9* HCT-34.4* MCV-91 
MCH-28.9 MCHC-31.6 RDW-15.1
___ 02:45PM   ALT(SGPT)-18 AST(SGOT)-18 ALK PHOS-126* TOT 
BILI-0.6
___ 04:25PM   ___
___ 02:45PM   GLUCOSE-155* UREA N-23* CREAT-1.3* SODIUM-139 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-27 ANION GAP-15
___ 02:45PM   LIPASE-40
___ 06:20PM URINE Color-Straw Appear-Clear Sp ___
___ 06:20PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 06:20PM URINE RBC-2 WBC-2 Bacteri-FEW Yeast-NONE Epi-4

___ 04:25AM BLOOD WBC-6.1 RBC-3.74* Hgb-11.2* Hct-33.9* 
MCV-91 MCH-30.1 MCHC-33.2 RDW-14.8 Plt ___
___ 04:25AM BLOOD Glucose-105* UreaN-21* Creat-1.4* Na-145 
K-3.5 Cl-105 HCO3-30 AnGap-14
___ 04:25AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2
___ 04:25AM BLOOD HCG-5
___ 04:25AM BLOOD CEA-2.3 AFP-2.5 CA125-4.5

 
Brief Hospital Course:
Mrs. ___ was admitted to the neurology ICU for monitoring 
following a seizure and new findings of multiple intracranial 
hemorrhages on non-contrast head CT. After close monitoring, she 
was transferred to the neurology floor for further care.

#NEUROLOGY
She was placed on telemetry monitoring with seizure precautions, 
blood pressure was kept under 160 with her home blood pressure 
medications. She was contined on Keppra 1g BID, and she had no 
further seizures. This was decreased to 750mg BID and the 
patient remained clinically seizure-free. Extended routine EEG 
was normal. 

Repeat NCHCT showed stable hemorrhages. CTA was unremarkable. 
MRI unable to be performed due to pacemaker. Differential for 
her bleeds included amyloid angiopathy, metastatic disease, or 
emboli which could potentially be clot vs septic. For further 
workup, TTE was performed which was unchanged from prior with no 
specific embolic source such as a thrombus or vegetation found, 
and CT torso with and without contrast done which showed 
potentially suspicious cystic lesions in the kidney. For further 
workup, renal ultrasound was ordered. This showed that these 
lesions were most likely benign. Potential serum tumor markers 
were evaluated and were also normal. The leading diagnosis for 
the etiology of the brain hemorrhages is therefore amyloid 
angiopathy.

#CARDIOLOGY - she was continued on all of her home medications. 
TTE as above. Telemetry monitoring with atrial fibrillation. 
Warfarin was stopped and the patient and her family were 
counseled that given the high risk for recurrent brain 
hemorrhage, this should not be restarted in the future. She 
should start aspirin 81mg daily 1 week after the incident, which 
is ___. 

#ID - infectious workup, including CBC, UA, and CXR were 
negative. TTE with no evidence of endocarditis. She remained 
afebrile during her stay with no signs or symptoms of infection.

#Physical therapy saw the patient during her stay and on day of 
discharge recommended home with home ___. She will be going home 
with her daughter, who assures us that she will also have 24 
hour supervision. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cerefolin NAC (algal oil) (Lmefol Ca-acetyl-meB12-algal) 6 
mg-600 mg- 2 mg-90.314 mg oral DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Colchicine 0.6 mg PO PRN gout 
5. GlipiZIDE 2.5 mg PO DAILY 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Lisinopril 5 mg PO DAILY 
8. Memantine 10 mg PO BID 
9. Metoprolol Succinate XL 50 mg PO DAILY 
10. Pantoprazole 40 mg PO Q24H 
11. Torsemide 40 mg PO DAILY 
12. Warfarin 3 mg PO DAILY16 

 
Discharge Medications:
1. Torsemide 40 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Memantine 10 mg PO BID 
4. Lisinopril 5 mg PO DAILY 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Allopurinol ___ mg PO DAILY 
7. Amlodipine 5 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. LeVETiracetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3
10. Pantoprazole 40 mg PO Q24H 
11. GlipiZIDE 2.5 mg PO DAILY 
12. Colchicine 0.6 mg PO PRN gout 
13. Cerefolin NAC (algal oil) (Lmefol Ca-acetyl-meB12-algal) 6 
mg-600 mg- 2 mg-90.314 mg oral DAILY 
14. Aspirin EC 81 mg PO DAILY 
To be started on ___.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
intraparenchymal hemorrhage
amyloid angiopathy
mild cognitive impairment
atrial fibrillation
diastolic congestive heart disease
mild kidney impairment

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: mild anomia with paraphasic errors (chronic). Mild 5- 
weakness of left biceps and finger extensors.

 
Discharge Instructions:
Dear ___, 
___ was a pleasure caring for you during your stay. You were 
admitted to the hospital after new partial motor seizure, likely 
due to new multiple small spots of bleeding in the brain. The 
cause of the bleeding is uncertain, however we believe the most 
likely diagnosis is amyloid angiopathy. Other possibilities 
include bleeding from underlying neoplasm, or cardioembolic 
septic or clot emboli. We evaluated these possibilities with a 
CT torso and heart echocardiogram, neither of which showed any 
new concerning findings.

Given the new seizures, please continue Keppra (aka 
levetiracetam) 750mg twice daily to help prevent these from 
re-occurring. 

Given the new brain bleeds, please stop the coumadin (aka 
warfarin). One week after the incident (___), 
please start taking aspirin 81mg daily to help decrease risk of 
stroke and heart attacks, given your underlying heart disease.   
  

Please follow up in clinic as listed below. 

During your stay, we had physical therapy evaluate you. They 
felt that you would be safe for discharge home with home 
physical therapy.

For your history of diastolic congestive heart disease:
Weigh yourself every morning, call PCP or cardiologist if weight 
goes up more than 3 lbs.
 
Followup Instructions:
___